US08541589B2
A mixture of ethyl 2-(3-bromopyridin-2-ylthio)-2-methylpropanoate (271 mg, 0.89 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile (248 mg, 0.89 mmol), palladium tetrakis triphenylphoshine (51 mg, 0.044 mmol) and aqueous sodium carbonate solution (2M, 1.5 mL, 3 mmol) in dioxane (3 mL) was degassed and heated to 80° C. for 5 hours. The mixture was washed with water and extracted with ethyl acetate. The organic layer was dried with Mg2SO4, concentrated and purified by chromatography to yield ethyl 2-(3-(4-cyanonaphthalen-1-yl)pyridin-2-ylthio)-2-methylpropanoate (0.121 g, 36%).

reactant | ethyl 2-(3-bromopyridin-2-ylthio)-2-methylpropanoate | 0.89 mmol, 271 mg | BrC=1C(=NC=CC1)SC(C(=O)OCC)(C)C | C11H14BrNO2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile | 0.89 mmol, 248 mg | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)C#N)C | C17H18BNO2
reactant | sodium carbonate | 3 mmol, 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | ethyl 2-(3-(4-cyanonaphthalen-1-yl)pyridin-2-ylthio)-2-methylpropanoate | 0.121 g, 36% | C(#N)C1=CC=C(C2=CC=CC=C12)C=1C(=NC=CC1)SC(C(=O)OCC)(C)C | C22H20N2O2S
